US07528262B2
1-(4-Benzyloxyphenyl)-2-(2-methoxyethyl)-1H-indole.
2-[1-(4-Benzyloxyphenyl)-1H-indol-2-yl]ethanol (0.675 mmol) was dissolved in tetrahydrofuran (5 mL) under N2, and sodium hydride (81 mg, 60% dispersion in mineral oil, 2.03 mmol) was added. The reaction was heated to reflux, at which time iodomethane (0.42 mL, 6.75 mmol) was added. The reaction was stirred at reflux for 3 hours, then carefully quenched with water. The mixture was extracted with ethyl acetate, dried over MgSO4, and concentrated. The residue was purified by SiO2 chromatography (5-20% ethyl acetate/hexanes) to give the desired product, 0.14 g. LC-MS (C24H23NO2 calc'd 357) m/z 358 (M+H).

reactant | 2-[1-(4-Benzyloxyphenyl)-1H-indol-2-yl]ethanol | 0.675 mmol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)CCO | C23H21NO2
reactant | sodium hydride | 2.03 mmol, 81 mg | [H-].[Na+]
reactant | iodomethane | 6.75 mmol, 0.42 mL | IC | CH3I
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(4-Benzyloxyphenyl)-2-(2-methoxyethyl)-1H-indole | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)CCOC | C24H23NO2
